### PR TITLE
[Merged by Bors] - feat(Geometry/Manifold): the interior of a manifold is open

### PR DESCRIPTION
**Pull request by peabrainiac**
Show that the interior and boundary of manifolds are well-defined in the sense that the definition of interior points does not depend on a choice of chart, and conclude that the interior and boundary of manifolds are open resp. closed.

We only do this for $C^1$ manifolds because while it holds for finite-dimensional topological manifolds too, it is not clear to me whether it holds for infinite-dimensional topological manifolds, so that the finite-dimensional topological case probably needs to be treated separately from this infinite-dimensional $C^1$ case anyway.

---

- [x] depends on: #35391

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean [hunk 1]
```diff
@@ -377,6 +377,60 @@ theorem contDiffWithinAt_extend_coord_change' [ChartedSpace H M] (hf : f ∈ max
...
+lemma isInvertible_fderivWithin_extCoordChange [ChartedSpace H M] {n : WithTop ℕ∞}
+    (hn : 1 ≤ n) {e e' : OpenPartialHomeomorph M H} (he : e ∈ IsManifold.maximalAtlas I n M)
+    (he' : e' ∈ IsManifold.maximalAtlas I n M) {x : E} (hx : x ∈ (I.extCoordChange e e').source) :
+    (fderivWithin 𝕜 (I.extCoordChange e e') (I.extCoordChange e e').source x).IsInvertible := by
+  set φ := I.extCoordChange e e'
+  have hφ : ContDiffOn 𝕜 n φ φ.source := I.contDiffOn_extCoordChange he he'
+  have hφ' : ContDiffOn 𝕜 n φ.symm φ.target := I.contDiffOn_extCoordChange_symm he he'
+  refine .of_inverse (g := (fderivWithin 𝕜 φ.symm φ.target (φ x))) ?_ ?_
+  · rw [← φ.left_inv hx, φ.right_inv (φ.map_source hx), ← fderivWithin_comp _
+      (φ.left_inv hx ▸ ((hφ _ hx).differentiableWithinAt hn):)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: You're rewriting by a single proof term here which spans 3 to 4 lines. This is very clever. But that means it's too clever to be debugged later when this breaks. Please extract this as e.g. a separate have. (You can consider inlining hphi above, if you want to save space. But rather do that than inlining this term.)

The same applies below.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 2]
```diff
@@ -197,6 +202,116 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+  have hFφ : IsLocalMax (F ∘ φ) (e.extend I x) :=
+    Filter.eventually_of_mem (mem_interior_iff_mem_nhds.1 hφx) fun y hy ↦
+      (hF' (φ y) ((show φ.target ⊆ range I by simp [φ, inter_assoc]) (φ.mapsTo hy))).trans_eq <|
+        congr_arg F <| by simp [φ, hex]
+  have h := hFφ.fderiv_eq_zero
+  rw [fderiv_comp _ (by fun_prop) (((hφ.restrict_scalars ℝ).differentiableOn hn).differentiableAt <|
+    mem_interior_iff_mem_nhds.1 hφx), ContinuousLinearMap.fderiv] at h
+  exact DFunLike.congr_fun h
+
+/-- A point `x` in a manifold that is at least C¹ is a boundary point iff it gets mapped to the
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]:
```suggestion
/-- A point `x` in a `C¹` manifold is a boundary point iff it gets mapped to the boundary

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 3]
```diff
@@ -197,6 +202,116 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+  -- It suffices to show that `fderiv ℝ φ (e.extend I x) y` sends everything to the kernel of `F`.
+  suffices h : ∀ y, F (fderiv ℝ φ (e.extend I x) y) = 0 by
+    have ⟨y, hy⟩ := I.nonempty_interior
+    unfold Function.Surjective; push_neg
+    refine ⟨e'.extend I x - y, fun z ↦ ne_of_apply_ne F ?_⟩
+    rw [h z, F.map_sub]
+    exact (sub_pos.2 <| hF _ hy).ne
+  -- This follows from `F ∘ φ` taking on a local maximum at `e.extend I x`.
+  have hF' : ∀ y ∈ range I, F y ≤ F (e'.extend I x) := by
+    change MapsTo F _ (Iic _)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Can you state the `have` using `MapsTo` directly? `change` is always a bit of a code smell.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 4]
```diff
@@ -197,6 +202,116 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+on any choice of charts, so that talking about `ModelWithCorners.interior` actually makes sense.
+
+Note that in general, this is actually quite nontrivial; that is why are focusing only on C¹
+manifolds here. For merely topological finite-dimensional manifolds the proof involves singular
+homology, and for infinite-dimensional topological manifolds I don't even know if this lemma holds.
+-/
+lemma isInteriorPoint_iff_of_mem_atlas {n : WithTop ℕ∞} [IsManifold I n M] (hn : 1 ≤ n)
+    {e : OpenPartialHomeomorph M H} (he : e ∈ atlas H M) {x : M} (hx : x ∈ e.source) :
+    I.IsInteriorPoint x ↔ e.extend I x ∈ interior (e.extend I).target := by
+  -- it suffices to show that if `x` is interior in one chart `e` it also is in any other chart `e'`
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: This proof is quite long; I wonder if splitting it makes sense. Let me suggest some natural cut-off points below.

Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: This proof is quite long; I wonder if splitting it makes sense. Let me suggest some natural cut-off points below.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 5]
```diff
@@ -197,6 +202,116 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+  revert e
+  suffices h : ∀ e ∈ atlas H M, x ∈ e.source → ∀ e' ∈ atlas H M, x ∈ e'.source →
+      e.extend I x ∈ interior (e.extend I).target → e'.extend I x ∈ interior (e'.extend I).target by
+    rw [isInteriorPoint_iff]
+    exact fun e he hx ↦ ⟨h _ (chart_mem_atlas H x) (mem_chart_source H x) _ he hx,
+      h _ he hx _ (chart_mem_atlas H x) (mem_chart_source H x)⟩
+  intro e he hex e' he' hex' hx
+  /- Since transition maps are diffeomorphisms, it suffices to show that if `e'` were to send `x`
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:250]: Everything from this point onwards could be a separate lemma.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 6]
```diff
@@ -197,6 +202,116 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
 
 end BoundarylessManifold
 
+section ChartIndependence
+
+/-- A point `x` in a manifold that is at least C¹ is an interior point iff it gets mapped to the
+interior of the model space by any given chart - i.e., the notion of interior points does not depend
+on any choice of charts, so that talking about `ModelWithCorners.interior` actually makes sense.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]:
```suggestion
/-- A point `x` in a `C¹` manifold is an interior point iff it gets mapped to the interior of the
model space by any given chart. In other words, the notion of interior points does not depend
on any choice of charts.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 7]
```diff
@@ -197,6 +202,116 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+lemma isBoundaryPoint_iff_of_mem_atlas {n : WithTop ℕ∞} [IsManifold I n M] (hn : 1 ≤ n)
+    {e : OpenPartialHomeomorph M H} (he : e ∈ atlas H M) {x : M} (hx : x ∈ e.source) :
+    I.IsBoundaryPoint x ↔ e.extend I x ∈ frontier (e.extend I).target := by
+  rw [← not_iff_not, ← I.isInteriorPoint_iff_not_isBoundaryPoint,
+    I.isInteriorPoint_iff_of_mem_atlas hn he hx, mem_interior_iff_notMem_frontier]
+  exact (e.extend I).mapsTo <| e.extend_source (I := I) ▸ hx
+
+/-- The interior of any C¹ manifold is open.
+
+This is currently only proven for C¹ manifolds, but should hold at least for finite-dimensional
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: How about saying "but also holds for finite-dimensional topological manifolds"? Also below.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 8]
```diff
@@ -197,6 +202,116 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+    (IsManifold.subset_maximalAtlas he) (IsManifold.subset_maximalAtlas he')
+  suffices h : e'.extend I x ∉ interior (range I) →
+      ¬Function.Surjective (fderivWithin 𝕜 φ φ.source (e.extend I x)) by
+    rw [not_imp_not] at h
+    refine e'.mem_interior_extend_target (by simp [hex']) <| h ?_
+    refine ContinuousLinearMap.IsInvertible.surjective ?_
+    exact isInvertible_fderivWithin_extCoordChange hn (IsManifold.subset_maximalAtlas he)
+      (IsManifold.subset_maximalAtlas he') <| by simp [hex, hex']
+  intro hx'
+  /- Reduce the situation to the real case, then apply Hahn-Banach to `x` and `interior (range I)`
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: The reduction to the real case could be another lemma, right? IIUC, the p-adic case doesn't need the 10 lines above.

**Review by grunweg — COMMENTED** [review]
Thanks a lot for your PR! This is a welcome surprise, a bit like an unanticipated Christmas present, received two days early. I took a first look and have mostly minor comments about polish and making the code more maintainable.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 4 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Do you think "If a map that is `ContDiff` on `s` sends `s` to a convex set and a point `x` in the interior of `s` to the boundary of that convex set, its differential at `x` within `s` is not surjective" is worth having as a lemma? I think that's the most natural splitting point in this proof, but it's still very specific, that's why I didn't split it off until now

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 8 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: I'm not sure what lemma you have in mind - the main thing going on here is that I use `IsRCLikeNormedField 𝕜` to make `E` a normed space over `ℝ` in a way that is compatible with `𝕜` and then rewrite the derivative over `𝕜` to the derivative over `ℝ`. Eliminating the p-adic case is just a small step that could have happened earlier in the proof but seemed most convenient here.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 9]
```diff
@@ -197,6 +202,116 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+    (IsManifold.subset_maximalAtlas he') (IsManifold.subset_maximalAtlas he)
+  have hφ' : ContDiffOn 𝕜 n φ.symm φ.target := e.contDiffOn_extend_coord_change
+    (IsManifold.subset_maximalAtlas he) (IsManifold.subset_maximalAtlas he')
+  suffices h : e'.extend I x ∉ interior (range I) →
+      ¬Function.Surjective (fderivWithin 𝕜 φ φ.source (e.extend I x)) by
+    rw [not_imp_not] at h
+    refine e'.mem_interior_extend_target (by simp [hex']) <| h ?_
+    refine ContinuousLinearMap.IsInvertible.surjective ?_
+    exact isInvertible_fderivWithin_extCoordChange hn (IsManifold.subset_maximalAtlas he)
+      (IsManifold.subset_maximalAtlas he') <| by simp [hex, hex']
```
Comment (Komyyy) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Importing `Mathlib.Geometry.Manifold.VectorBundle.Tangent`, you can prove this without `isInvertible_fderivWithin_extCoordChange`:

```suggestion
    haveI : IsManifold I 1 M := IsManifold.of_le hn
    suffices fderivWithin 𝕜 φ φ.source (e.extend I x) =
        Trivialization.coordChangeL 𝕜 ((tangentBundleCore I M).localTriv ⟨e, he⟩)
          ((tangentBundleCore I M).localTriv ⟨e', he'⟩) x by
      rw [this]; apply ContinuousLinearMap.isInvertible_equiv
    ext y
    rw [ContinuousLinearEquiv.coe_coe, e.extend_coe, Function.comp_apply,
      VectorBundleCore.localTriv_coordChange_eq _ _ _ (by simp [hex, hex'])]
    refine DFunLike.congr_fun (fderivWithin_congr_set ?_) y
    simp only [φ, OpenPartialHomeomorph.extend_coord_change_source,
      Filter.set_eventuallyEq_iff_inf_principal, ← nhdsWithin.eq_1, ← I.map_nhdsWithin_eq,
      ← I.map_nhds_eq, Filter.map_inj I.injective, nhdsWithin_eq_nhds,
      (e.symm.trans e').open_source.mem_nhds_iff]
    simp [e.map_source hex, e.left_inv hex, hex']
```

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Fair point. Could the real case be a separate lemma, though?

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: At least, it's a conceptual statement that can be understood without too much context, and it clarifies the argument below. I would experiment with extracting it: if it makes the main proof shorter, I think it can be useful.

Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: I've factored out this lemma now; that split the proof roughly in half. I'm not sure where to place it though, because I think `Mathlib.Analysis.Calculus.LocalExtr.Basic` and `Mathlib.Analysis.Calculus.LocalExtr.Basic`, the two files I needed for the proof, are not both imported into any earlier file in the import hierarchy.

File: Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean (hunk 1 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: All of the arguments to `fderivWithin_comp` were proofs, not data, so I've moved them all to subgoals now; I hope that is better.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 9 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Thanks for the suggestion, but I'm not sure if that would be an improvement - this does not feel like a statement that one should need vector bundle machinery for, and even with the machinery the proof is relatively long. The API on `extCoordChange` also seems to me like it is very likely to be useful outside of this use case, so I wouldn't consider adding it much of a cost.

Comment (Komyyy) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: OK, I see!

File: Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean [hunk 10]
```diff
@@ -370,6 +370,63 @@ theorem contDiffWithinAt_extend_coord_change' [ChartedSpace H M] (hf : f ∈ max
 
 end OpenPartialHomeomorph
 
+namespace ModelWithCorners
+
+/-- The change of charts from `e` to `e'` in the model vector space `E`. -/
+@[simps!]
+def extCoordChange (e e' : OpenPartialHomeomorph M H) : PartialEquiv E E :=
+  (e.extend I).symm.trans (e'.extend I)
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean:326]: Extract {e e'} as `variable`s from now on? I think you can even extract `{n}`.

File: Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean [hunk 11]
```diff
@@ -370,6 +370,63 @@ theorem contDiffWithinAt_extend_coord_change' [ChartedSpace H M] (hf : f ∈ max
...
+    ContDiffOn 𝕜 n (I.extCoordChange e e') (I.extCoordChange e e').source :=
+  e'.contDiffOn_extend_coord_change he' he
+
+lemma contDiffOn_extCoordChange_symm [ChartedSpace H M] {n : WithTop ℕ∞}
+    {e e' : OpenPartialHomeomorph M H} (he : e ∈ IsManifold.maximalAtlas I n M)
+    (he' : e' ∈ IsManifold.maximalAtlas I n M) :
+    ContDiffOn 𝕜 n (I.extCoordChange e e').symm (I.extCoordChange e e').target :=
+  e.contDiffOn_extend_coord_change he he'
+
+lemma uniqueDiffOn_extCoordChange_source {e e' : OpenPartialHomeomorph M H} :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: If you move these two lemmas above, you can `variable [ChartedSpace H M]` for the remaining lemmas also.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 12]
```diff
@@ -197,6 +202,117 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+    rw [h z, F.map_sub]
+    exact (sub_pos.2 <| hF _ hy).ne
+  -- This follows from `F ∘ f` taking on a local maximum at `e.extend I x`.
+  have hF' : MapsTo F s (Iic (F (f x))) := by
+    rw [← hs'.closure_eq, ← closure_Iio, ← hs.closure_interior_eq_closure_of_nonempty_interior hs'']
+    exact .closure hF F.continuous
+  have hFφ : IsLocalMax (F ∘ f) x := Filter.eventually_of_mem hu fun y hy ↦ hF' <| hfus hy
+  have h := hFφ.fderiv_eq_zero
+  rw [fderiv_comp _ (by fun_prop) hf, ContinuousLinearMap.fderiv] at h
+  exact DFunLike.congr_fun h
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:234]: Can this be just `congr`?

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 13]
```diff
@@ -197,6 +202,117 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+
+/-- A point `x` in a C¹ manifold is an interior point iff it gets mapped to the interior of
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: I believe we slightly prefer "if and only if". (mathlib may be inconsistent here; I have definitely also done otherwise. But it's good to try to keep this in mind.)

**Review by grunweg — COMMENTED** [review]
Thanks, I really like where this is going. I have a few more nits. (Otherwise, it's probably good... I just need to find the time to sit down with this PR in a quiet moment. Hopefully, I'll have time at the end of next week.)

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: You've copy-pasted the same file twice - which ones do you mean?
If there is no better place for this lemma, keeping it where it is with a comment seems fine with me.

Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: I meant `Mathlib.Analysis.Calculus.LocalExtr.Basic`and `Mathlib.Analysis.LocallyConvex.Separation` - oops. Those are the two private imports of this file, needed because the proof I wrote uses Hahn-Banach and the vanishing of the derivative at local maxima.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 12 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:234]: Unless there is some trick with `congr` I don't know, I don't think so - the rhs of the goal at this point is the value `0`, not the zero function evaluated at something, so `congr` doesn't reduce this to the function on the lhs being zero

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 14]
```diff
@@ -197,6 +202,117 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+/-- The interior of any C¹ manifold is open.
+
+This is currently only proven for C¹ manifolds, but holds at least for finite-dimensional
+topological manifolds too; see `ModelWithCorners.isInteriorPoint_iff_of_mem_atlas`. -/
+protected lemma isOpen_interior {n : WithTop ℕ∞} [IsManifold I n M] (hn : n ≠ 0) :
+    IsOpen (I.interior M) := by
+  refine isOpen_iff_forall_mem_open.2 fun x hx ↦ ⟨_, ?_, isOpen_extChartAt_preimage (I := I) x
+    isOpen_interior, mem_chart_source H x, isInteriorPoint_iff.1 hx⟩
+  exact fun y hy ↦ (I.isInteriorPoint_iff_of_mem_atlas hn (chart_mem_atlas H x) hy.1).2 hy.2
+
```
Comment (michaellee94) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:316]: Maybe we could add something like this here?

```
/-- The interior of a `Cⁿ` manifold, as an open subset. -/
abbrev interiorOpens {n : WithTop ℕ∞} [IsManifold I n M] (hn : n ≠ 0) :
    TopologicalSpace.Opens M := ⟨I.interior M, I.isOpen_interior hn⟩

/-- The interior of a `Cⁿ` manifold is a `Cⁿ` manifold for `n ≠ 0`. -/
instance {n : WithTop ℕ∞} [IsManifold I n M] (hn : n ≠ 0) :
    IsManifold I n (I.interiorOpens (M := M) hn) := by infer_instance
```

Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:316]: That sounds reasonable, yes - it's something I thought might be useful too, but didn't include yet because I wanted to keep the PR short. I can add in in a moment.

One minor nitpick - should this be called `interiorOpens` or `interiorOpen`? I imagine you suggested the former because the type is called `Opens`, but it feels a bit weird to call a single open set an "opens" instead of an "open". I don't know the general rule for this, but it seems that at least [PrimeSpectrum.basicOpen](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Spectrum/Prime/Topology.html#PrimeSpectrum.basicOpen) also uses the latter kind of name instead of the former.

Comment (michaellee94) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:316]: Makes sense! I'm a fairly new contributor, so someone else would probably be better suited than me to comment on nomenclature (@grunweg?).

The reason why I suggested this is that it's only a few lines, and it enables a downstream PR for orientability on manifolds with corners based on orientability of their interior: https://github.com/leanprover-community/mathlib4/pull/35376

This could simply be part of that PR, though.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:316]: Let's add this in a follow-up PR, so we can have the naming discussion without holding up this PR :-)

File: Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean [hunk 15]
```diff
@@ -370,6 +370,61 @@ theorem contDiffWithinAt_extend_coord_change' [ChartedSpace H M] (hf : f ∈ max
 
 end OpenPartialHomeomorph
 
+namespace ModelWithCorners
+
+/-- The change of charts from `e` to `e'` in the model vector space `E`. -/
+@[simps!]
+def extCoordChange (e e' : OpenPartialHomeomorph M H) : PartialEquiv E E :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: This should be called `extendCoordChange`.
I also think we should use it in `contDiffOn_extend_coord_change` (and perhaps rename that one as `ContDiffOn.extendCoordChange`)... I'm not sure if this will have further fall-out in mathlib; maybe that alone should be a previous PR.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 16]
```diff
@@ -47,15 +53,14 @@ of `M` and `N`.
 manifold, interior, boundary
 
 ## TODO
-- `x` is an interior point iff *any* chart around `x` maps it to `interior (range I)`;
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:50]: Can you add this item to the results also?

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 17]
```diff
@@ -197,6 +202,117 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
 
 end BoundarylessManifold
 
+section ChartIndependence
+
+/-- If a function `f : E → H` is differentiable at `x`, sends a neighbourhood `u` of `x` to a
+closed convex set `s` with nonempty interior and has surjective differential at `x`, it must send
+`x` to the interior of `s`.
+TODO: find home (`#find_home` says this file) -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Is this question resolved now? If there's no obvious place, I'm find with keeping it in this file (maybe moving to the top/into an auxiliary section).

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 18]
```diff
@@ -197,6 +202,117 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+lemma _root_.DifferentiableAt.mem_interior_convex_of_surjective_fderiv {E H : Type*}
+    [NormedAddCommGroup E] [NormedSpace ℝ E] [NormedAddCommGroup H] [NormedSpace ℝ H] {f : E → H}
+    {x : E} (hf : DifferentiableAt ℝ f x) {u : Set E} (hu : u ∈ 𝓝 x) {s : Set H} (hs : Convex ℝ s)
+    (hs' : IsClosed s) (hs'' : (interior s).Nonempty) (hfus : Set.MapsTo f u s)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Let's reflow this differently, perhaps like this
```suggestion
lemma _root_.DifferentiableAt.mem_interior_convex_of_surjective_fderiv
    {E H : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [NormedAddCommGroup H] [NormedSpace ℝ H]
    {f : E → H} {x : E} (hf : DifferentiableAt ℝ f x) {u : Set E} (hu : u ∈ 𝓝 x) {s : Set H}
    (hs : Convex ℝ s) (hs' : IsClosed s) (hs'' : (interior s).Nonempty) (hfus : Set.MapsTo f u s)
```

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 19]
```diff
@@ -197,6 +202,117 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+  suffices h : ∀ e ∈ atlas H M, x ∈ e.source → ∀ e' ∈ atlas H M, x ∈ e'.source →
+      e.extend I x ∈ interior (e.extend I).target → e'.extend I x ∈ interior (e'.extend I).target by
+    rw [isInteriorPoint_iff]
+    exact fun e he hx ↦ ⟨h _ (chart_mem_atlas H x) (mem_chart_source H x) _ he hx,
+      h _ he hx _ (chart_mem_atlas H x) (mem_chart_source H x)⟩
+  intro e he hex e' he' hex' hx
+  /- Since transition maps are diffeomorphisms, it suffices to show that if `e'` were to send `x`
+  to the boundary of `range I`, the differential of the transition map `φ` from `e` to `e'` at `x`
+  could not be surjective. -/
+  let φ := (e.extend I).symm.trans (e'.extend I)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: This could be `extCoordChange` (in your name), right? Let's use it :-)

**Review by grunweg — COMMENTED** [review]
Hopefully my last set of comments!

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 17 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Yes, I just forgot to remove the comment. Let's keep the lemma here for now.

File: Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean (hunk 15 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: Are you sure it should? It looks like both `extend_coord_change` and `ext_coord_change` currently appear in mathlib lemmas, so I imagined either name would be fine - and `extCoordChange` fits `extChartAt`, so I somewhat prefer it.

About using the API in existing lemmas like `contDiffOn_extend_coord_change`, would you be okay with leaving that to a follow-up PR? I think you're right that it would've been nice to do that in an earlier PR already, but seeing as we already have two PRs depending on this one now, it would be nice to get this unblocked instead of opening yet another prerequisite PR.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: I would expect `extCoordChange` to be about `extChartAt`, whereas this definition is about `extend`ing any chart - so yes, I am sure :-) (Actually checking with the existing names confirms this.)

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: My hope is that the other PR can go in quickly, and then won't block this for long. Can we try that, and if it takes longer than a few days, I'll be happy to merge this PR as-is?

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: I look forward for orientations to be merged into mathlib, but I'm not sure if this is as critical. From my perspective, other work depending on this PR... well, happens. As long as everything is moving reasonably fast, I have learned to live with it.

Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/ExtChartAt.lean]: I see - I hadn't realised that the difference between `ext_coord_change` and `extend_coord_change` lemmas is whether they were are about `extChartAt` or general extended charts, I thought it was just inconsistent.

I've opened a separate PR for this now.

**Comment by peabrainiac** [comment]
I've merged master now and removed `extCoordChange` in favour of the new `extendCoordChange`, so assuming CI passes this PR should be once again ready for review.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 20]
```diff
@@ -197,6 +205,116 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+    {e : OpenPartialHomeomorph M H} (he : e ∈ atlas H M) {x : M} (hx : x ∈ e.source) :
+    I.IsInteriorPoint x ↔ e.extend I x ∈ interior (e.extend I).target := by
+  -- it suffices to show that if `x` is interior in one chart `e` it also is in any other chart `e'`
+  revert e
+  suffices h : ∀ e ∈ atlas H M, x ∈ e.source → ∀ e' ∈ atlas H M, x ∈ e'.source →
+      e.extend I x ∈ interior (e.extend I).target → e'.extend I x ∈ interior (e'.extend I).target by
+    rw [isInteriorPoint_iff]
+    exact fun e he hx ↦ ⟨h _ (chart_mem_atlas H x) (mem_chart_source H x) _ he hx,
+      h _ he hx _ (chart_mem_atlas H x) (mem_chart_source H x)⟩
+  intro e he hex e' he' hex' hx
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: How about splitting this off into another lemma?

**Review by grunweg — COMMENTED** [review]
Thanks! One last comment, then this is good to go!

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 20 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: By this I assume you mean everything below the line you commented on? I split that out as another iff statement now.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Not sure if my comment on the commit got through; reposting it here just in case:
I was thinking of doing the split slightly differently: have this lemma show only one direction,
and then have isInteriorPoint_iff_of_mem_atlas do the revert-suffices-dance. Ideally, lines 249 through 254 would not be needed here.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Sorry for being a bit imprecise!

Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Hm, I see. I think this makes more sense as an iff though: you can always get one direction of the implication from it but not easily the other way around, and the iff lets you rewrite things whereas just an implication wouldn't. And we have to do the revert-suffices-thingy at some point either way, so there's no harm in having it here, right?

Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: Another option, as discussed: state one direction separately; deduce the iff version from that.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 21]
```diff
@@ -197,6 +205,129 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+
+/-- For any two charts `e`, `e'` around a point `x` in a C¹ manifold, if `e` maps `x` to the
+interior of the model space, `e'` does too - in other words, the notion of interior points does not
+depend on any choice of charts.
+
+Note that in general, this is actually quite nontrivial; that is why are focusing only on C¹
+manifolds here. For merely topological finite-dimensional manifolds the proof involves singular
+homology, and for infinite-dimensional topological manifolds I don't even know if this lemma holds.
+-/
+lemma mem_interior_range_of_mem_interior_range_of_mem_atlas {n : WithTop ℕ∞} [IsManifold I n M]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean]: There are (now, and to some extend previously) repeated variables --- such as `{n : WithTop ℕ∞} [IsManifold I n M]{e e' : OpenPartialHomeomorph M H}{x : M}`. Can you extract them to make all the subsequent lemmas nicer to read?

**Review by grunweg — COMMENTED** [review]
Thanks for your patience. One last comment!
bors d+
